*****************************************************************
* SPICE2G6 MODEL OF THE PNP BIPOLAR TRANSISTOR BC327 (SOT-23)   *
*****************************************************************
.SUBCKT BC327/SIE B C E
* Descriptive names for the ports:
* B (Base) is terminal 1
* C (Collector) is terminal 2
* E (Emitter) is terminal 3
Q    Q_Collector Q_Base Q_Emitter BC327 1.000
LC   B Q_Collector 0.350N
L1   C Q_Base1 0.400N
LB   Q_Base1 Q_Base 0.500N
L2   E Q_Emitter1 0.400N
LE   Q_Emitter1 Q_Emitter 0.600N
CGBC Q_Base1 Q_Collector 70.00F
CGBE Q_Base1 Q_Emitter1 0.150P
CGCE Q_Collector Q_Emitter1 15.00F
.ENDS
.MODEL BC327 PNP (IS=0.230P NF=1.000 BF=504.327 VAF=26.000 IKF=0.780
+ ISE=39.284F NE=1.944 NR=1.002 BR=23.000 VAR=4.500 IKR=0.195
+ ISC=0.118F NC=3.025
+ RB=0.800 IRB=0.100M RBM=0.400
+ RE=0.203 RC=0.262
+ CJE=57.177P VJE=1.000 MJE=0.470 FC=0.750
+ CJC=28.600P VJC=1.000 MJC=0.520 XCJC=0.650
+ TF=0.664N TR=2.600N PTF=1.000
+ XTF=6.350 VTF=2.000 ITF=0.250
+ XTB=1.700 EG=1.110 XTI=4.800
+ KF=5.000F AF=1.000)

