* will this work

.subckt T_NOT in out VCC VSS
.model __Q1 NMOS
.model __Q2 PMOS

MQ1 out in VSS NC-Q1-0 __Q1  ; NMOS
MQ2 out in VCC NC-Q2-0 __Q2  ; PMOS

.ends T_NOT

* NAND Gate Implementation
.subckt T_NAND A B out VCC VSS
.model __Q7 PMOS
.model __Q8 PMOS
.model __Q9 NMOS
.model __Q10 NMOS

* PMOS transistors
MQ7 out A VCC NC-Q7-0 __Q7  ; PMOS
MQ8 out B VCC NC-Q8-0 __Q8  ; PMOS

* NMOS transistors
MQ9 nand_internal B VSS NC-Q9-0 __Q9  ; NMOS
MQ10 out A nand_internal NC-Q10-0 __Q10  ; NMOS

.ends T_NAND

* AND Gate Implementation using NAND followed by NOT
.subckt T_AND A B out VCC VSS

XNAND A B nand_out VCC VSS T_NAND  ; Instantiate NAND
XNOT nand_out out VCC VSS T_NOT    ; Instantiate NOT to invert the output of NAND for AND logic

.ends T_AND


* NOR Gate
.subckt T_NOR A B out VCC VSS
.model __Q7 PMOS
.model __Q8 PMOS
.model __Q9 NMOS
.model __Q10 NMOS

* PMOS transistors - connected in series for T_NOR operation
MQ7 nand_internal A VCC NC-Q7-0 __Q7  ; PMOS
MQ8 out nand_internal B NC-Q8-0 __Q8  ; PMOS

* NMOS transistors - connected in parallel for T_NOR operation
MQ9 out A VSS NC-Q9-0 __Q9  ; NMOS
MQ10 out B VSS NC-Q10-0 __Q10  ; NMOS

.ends T_NOR


* OR Gate Implementation using NOR followed by NOT
.subckt T_OR A B out VCC VSS

XNOR A B nor_out VCC VSS T_NOR  ; Instantiate NOR gate
XNOT nor_out out VCC VSS T_NOT  ; Instantiate NOT gate to invert the output of NOR for OR logic

.ends T_OR

* 3-input NAND Gate Implementation
.subckt T_NAND3 A B C out VCC VSS
.model __Q11 PMOS
.model __Q12 NMOS

* PMOS transistors - connected in parallel for T_NAND3 operation
MQ11 out A VCC NC-Q11-0 __Q11  ; PMOS for input A
MQ12 out B VCC NC-Q12-0 __Q11  ; PMOS for input B
MQ13 out C VCC NC-Q13-0 __Q11  ; PMOS for input C, added for 3-input NAND

* NMOS transistors - connected in series for T_NAND3 operation
MQ14 nand_internal1 B VSS NC-Q14-0 __Q12  ; NMOS for input B
MQ15 nand_internal2 A nand_internal1 NC-Q15-0 __Q12  ; NMOS for input A
MQ16 out C nand_internal2 NC-Q16-0 __Q12  ; NMOS for input C, added for 3-input NAND

.ends T_NAND3



.subckt T_TG in out ctl ctlb VDD VSS
.model T_MPMOS PMOS
.model T_MNMOS NMOS
M1 out in ctl VSS T_MNMOS ; NMOS part of the TG, controlled by ctl
M2 out in ctlb VDD T_MPMOS ; PMOS part of the TG, controlled by ctlb
.ends T_TG



