*
*
* ----------------------------------------------------------- CD4013B----
*
*  Dual Type D Flip-Flop
*
*  The CMOS Logic Data Book, 1991, Motorola Pages 6-33 to 6-36
*  jds    6/6/94
*
*
* ----------------------------------------------------------- CD4013B----
*
*  Dual Type D Flip-Flop
*
*  The CMOS Logic Data Book, 1991, Motorola Pages 6-33 to 6-36
*  jds    6/6/94
*  This part is shown in the data book as MC14013B
*
.SUBCKT CD4013B SA RA CA DA QA QABAR
+  optional: VDD=$G_CD4000_VDD VSS=$G_CD4000_VSS
+  params: MNTYMXDLY=0 IO_LEVEL=0
*
Uf0 inva(2) VDD VSS
+   SA RA prebar clrbar
+   D0_GATE IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

Uf1 dff(1) VDD VSS
+   prebar clrbar CA DA Q_A Q_ABAR
+   DFF4013B IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.MODEL DFF4013B UEFF(TWPCLMN=250NS TWPCLTY=125NS TWPCLMX=-1
+                    TWCLKLMN=250NS TWCLKLTY=125NS TWCLKLMX=-1
+                    TWCLKHMN=250NS TWCLKHTY=125NS TWCLKHMX=-1
+                    TSUDCLKMN=-1NS TSUDCLKTY=250NS TSUDCLKMX=-1
+                    THDCLKMN=40NS THDCLKTY=20NS THDCLKMX=-1)

U3 PINDLY(2,0,3) VDD VSS
+ Q_A Q_ABAR
+ CA SA RA
+ QA QABAR
+ IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
+ BOOLEAN:
+          EDGE = {CHANGED_LH(CA,0)}
+          SET = {CHANGED_LH(SA,0)}
+          CLEAR = {CHANGED_LH(RA,0)}
+ PINDLY:
+          QA QABAR = {
+            CASE(
+               SET, DELAY(-1,175NS,350NS),
+               CLEAR, DELAY(-1,225NS,450NS),
+               EDGE & (TRN_LH | TRN_HL), DELAY(-1,175NS,350NS),
+               DELAY(-1,226NS,451NS))}
  
U4 CONSTRAINT(3) VDD VSS
+ CA SA RA
+ IO_4000B IO_LEVEL={IO_LEVEL}
+ FREQ:
+        NODE = CA
+        MAXFREQ = 2MEG
+ SETUP_HOLD:
+             CLOCK LH = CA
+             DATA(2) = SA RA
+             SETUPTIME_LO = 80NS
+             HOLDTIME_LO = 50NS

.ENDS CD4013B

.subckt CD4013Bm. Q1 Q1N CLOCK1 RESET1 D1 SET1 VSS SET2 D2 RESET2 CLOCK2 Q2N Q2 VDD
* Include the CD4013B model from the library
XU1 SET1 RESET1 CLOCK1 D1 Q1 Q1N CD4013B
XU2 SET2 RESET2 CLOCK2 D2 Q2 Q2N CD4013B
.ends CD4013Bm

