*
*
* ----------------------------------------------------------- CD4081B----
*
*  Quad 2-Input AND Gate
*
*  The CMOS Logic Data Book, 1991, Motorola Pages 6-5 to 6-14
*  jds    6/6/94
*  This part is shown in the data book as MC14081B
*



.SUBCKT CD4081B IN1A IN2A OUTA
+  optional: VDD=$G_CD4000_VDD VSS=$G_CD4000_VSS
+  params: MNTYMXDLY=0 IO_LEVEL=0
*
Uf0 and(2) VDD VSS
+   IN1A IN2A OUTA
+   DLY_MOD IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.model DLY_MOD ugate (TPLHMN=-1 TPLHTY=160ns TPLHMX=300ns
+                     TPHLMN=-1 TPHLTY=160ns TPHLMX=300ns)

.include 
.ENDS CD4081B
.subckt CD4081Bm A1 B1 Y1 Y2 A2 B2 VSS A3 B3 Y3 Y4 A4 B4 VDD
* Instances for each of the four AND gates in the CD4081B
*IN1A IN2A OUTA
XAND1 A1 B1 Y1 CD4081B
XAND2 A2 B2 Y2 CD4081B
XAND3 A3 B3 Y3 CD4081B
XAND4 A4 B4 Y4 CD4081B
.ends CD4081Bm


