* QUAD OPERATIONAL AMPLIFIER TL074
*
* SPICE (Simulation Program with Integrated Circuit Emphasis)
* SUBCIRCUIT DEFINITION
*
.SUBCKT TL074c 1out 1in- 1in+ vcc- 2in+ 2in- 2out vcc+ 3in+ 3in- 3out 4in+ 4in- 4out
.include TL074.301
XU1A 1in+ 1in- vcc+ vcc- 1out TL074
XU1B 2in+ 2in- vcc+ vcc- 2out TL074
XU1C 3in+ 3in- vcc+ vcc- 3out TL074
XU1D 4in+ 4in- vcc+ vcc- 4out TL074
.ends

